US07351840B2
Perindopril erbumine (10 gms) was suspended in acetone (80 ml). To this was added water (0.4 ml) and the contents heated to dissolve the solids and cooled to ambient. The resulting slurry was filtered to obtain perindopril erbumine monohydrate (9.4 gms).

reactant | Perindopril erbumine | 10 gms | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCCC[C@H]2C[C@H]1C(=O)O.CC(C)(C)N
reactant | water | 0.4 ml | O | H2O
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | perindopril erbumine monohydrate | 9.4 gms | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCCC[C@H]2C[C@H]1C(=O)O.CC(C)(C)N.O | InChI=1S/C19H32N2O5.C4H11N.H2O/c1-4-8-14(19(25)26-5-2)20-12(3)17(22)21-15-10-7-6-9-13(15)11-16(21)18(23)24;1-4(2,3)5;/h12-16,20H,4-11H2,1-3H3,(H,23,24);5H2,1-3H3;1H2/t12-,13-,14-,15-,16-;;/m0../s1
